US07288537B2
A solution of NaOH (1.17 g, 29.3 mmol) in water/methanol (1:1) (18 ml), cooled to 0° C. in an ice bath, is treated with hydroxylamine hydrochloride (1.58 g, 22.78 mmol), with stirring for 5 minutes. (2-Ethyl-[1,3]dioxolan-2-yl)-acetonitrile (1.42 g, 10.125 mmol) is added and the reaction mixture stirred at room temperature for 18 hours, then refluxed for a further 2 hours. The reaction mixture is cooled and partitioned between ethyl acetate and water. The organic phase is dried over MgSO4, filtered, and the solvent evaporated to yield 2-(2-Ethyl [1,3]dioxolan-2-yl)-N-hydroxy-acetamidine. [M+H] 175.21

reactant | NaOH | 29.3 mmol, 1.17 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 22.78 mmol, 1.58 g | Cl.NO
reactant | (2-Ethyl-[1,3]dioxolan-2-yl)-acetonitrile | 10.125 mmol, 1.42 g | C(C)C1(OCCO1)CC#N | C7H11NO2
solvent | water methanol | 18 ml | O.CO
product | 2-(2-Ethyl [1,3]dioxolan-2-yl)-N-hydroxy-acetamidine | C(C)C1(OCCO1)CC(=N)NO | C7H14N2O3
